US07714099B2
2,4-di-tert-butyl-6-(4,7-diphenyl-2H-benzotriazol-2-yl)phenol
To a 40 mL glass vial, was added 4-phenylboronic acid (0.127 g, 1.04 mmol), 2,4-di-tert-butyl-6-(4,7-dibromo-benzotriazol-2-yl)-phenol (0.25 g, 0.52 mmol), toluene (0.65 mL), phase transfer catalyst (Aliquat 366®, 60% in toluene, 0.35 mL), tetrakis (triphenylphosphine) palladium in toluene (0.0104 M, 1.0 ml), and 0.8 mL of 2M degassed aqueous potassium carbonate. The vial was heated on an orbital shaker at 95° C. for 20 hours. After cooling to room temperature, methanol was added to the reaction mixture. Pale yellow crystals of product were collected after filtration and washed with DI water. Photoluminescence spectrometry of a dilute solution of the product in dichloromethane showed no visible emission.

reactant | 2,4-di-tert-butyl-6-(4,7-dibromo-benzotriazol-2-yl)-phenol | 0.52 mmol, 0.25 g | C(C)(C)(C)C1=C(C(=CC(=C1)C(C)(C)C)N1N=C2C(=N1)C(=CC=C2Br)Br)O | C20H23Br2N3O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 0.0104 M, 1.0 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis (triphenylphosphine) palladium | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | toluene | 0.65 mL | C1(=CC=CC=C1)C | C7H8
product | 2,4-di-tert-butyl-6-(4,7-diphenyl-2H-benzotriazol-2-yl)phenol | C(C)(C)(C)C1=C(C(=CC(=C1)C(C)(C)C)N1N=C2C(=N1)C(=CC=C2C2=CC=CC=C2)C2=CC=CC=C2)O | C32H33N3O
